US08022062B2
6-(5-Azepan-1-yl-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 369, using 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H benzo[d]azepine and homopiperidine to give the title compound as a yellow solid. MS (ES+) m/z 402 (M+H)+.

reactant | 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H benzo[d]azepine | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | homopiperidine | N1CCCCCC1 | C6H13N
product | 6-(5-Azepan-1-yl-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.N1(CCCCCC1)C=1C=CC(=NC1)CSC1=C(C=CC=2CCNCCC21)Cl | InChI=1S/C22H28ClN3S.ClH/c23-21-8-5-17-9-11-24-12-10-20(17)22(21)27-16-18-6-7-19(15-25-18)26-13-3-1-2-4-14-26;/h5-8,15,24H,1-4,9-14,16H2;1H
